US06187905B1
1.37 g (4.07 mmol) of N-[(9-fluorenyl)-methoxycarbonyl]-succinimide were added to a solution of 0.93 g (4.3 mmol) of tert-butyl 3(S)-amino-2(S)-hydroxyheptanoate in 40 ml of water/dioxan (1:1). The stirred mixture was adjusted to pH 9-10 with saturated sodium carbonate solution. After 17 hours the dioxan was removed by evaporation under a vacuum. The residual aqueous phase was washed with ethyl acetate, acidified with 2M hydrochloric acid and partitioned in ethyl acetate (three 100 ml aliquots). The three ethyl acetate aliquots were combined and washed with saturated sodium chloride solution, dried over anhydrous magnesium sulphate, filtered and the solvent was removed by evaporation to give crude tert-butyl 3(S)-[(9-fluorenyl)methoxyformamido]-2(S)-hydroxyheptanoate in the form of a pale yellow oil. This oil was chromatographed on silica gel using 20% ethyl acetate in hexane followed by 40% ethyl acetate in hexane for the elution. The chromatographed material was then stirred with 10 ml of trifluoroacetic acid/dichloromethane (1:1). After 30 minutes the solvent was removed by evaporation and the residual oil was triturated with 15 ml of diethyl ether/petroleum ether (1:2). There was obtained 1 g of 3(S)-[(9-fluorenyl)methoxyformamido]-2(S)-hydroxyheptanoic acid as a white solid MS m/e 384.1 [M+H].

reactant | N-[(9-fluorenyl)-methoxycarbonyl]-succinimide | 4.07 mmol, 1.37 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(CCC1=O)=O | C19H15NO4
reactant | tert-butyl 3(S)-amino-2(S)-hydroxyheptanoate | 4.3 mmol, 0.93 g | N[C@H]([C@@H](C(=O)OC(C)(C)C)O)CCCC | C11H23NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water dioxan | 40 ml | O.O1CCOCC1
product | 3(S)-[(9-fluorenyl)methoxyformamido]-2(S)-hydroxyheptanoic acid | 1 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H]([C@@H](C(=O)O)O)CCCC | C22H25NO5
